US05023513
Trimethylamine-(N-ethylcarbamoyl)methylborane
Trimethylamine-methylcyanoborane (0.71 g, 4.20 mmol) in anhydrous dichloromethane (2.0 ml) was taken with a solution of triethyloxonium tetrafluoroborate (3.8 ml of 2.22 M solution in dichloromethane), under a static atmosphere of nitrogen. The mixture was stirred at room temperature for 24 h. It was cooled to 0° C., slowly brought to pH=11 by addition of 1 N NaOH and stirred at 0° C. After ca 0.25 h, it was diluted with dichloromethane (ca 15 ml) and 1 N NaOH (ca 20 ml) and stirred at room temperature for 2 days. The organic layer was separated and the aqueous layer was extracted with dichloromethane (2×35 ml). The organic extracts were combined, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure to give an oil. The product was purified by dry flash chromatography on silica gel using dichloromethane (4×25 ml), followed by dichloro-methane:acetone (8:2, 4×25 ml) and finally dichloromethane:methanol (8:2, 10×35 ml). The product was obtained as a clear colorless oil from dichloro-methane:methanol fractions. Yield 0.58 g, 87.37%. The product could also be purified by normal flash chromatography on silica gell using diethylether:dichloromethane (9:1, 500 ml) followed by dichloromethane-methanol (8:2, 500 ml) with similar yield.

reactant | Trimethylamine methylcyanoborane | 4.20 mmol, 0.71 g | CN(C)C.CBC#N
reactant | triethyloxonium tetrafluoroborate | 2.22 M, 3.8 ml | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | methanol | CO | CH4O
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | ca 15 ml | ClCCl | CH2Cl2
solvent | NaOH | 1 N, ca 20 ml | [OH-].[Na+]
solvent | NaOH | 1 N | [OH-].[Na+]
product | Trimethylamine (N-ethylcarbamoyl)methylborane | CN(C)C.C(C)NC(=O)CB | InChI=1S/C4H10BNO.C3H9N/c1-2-6-4(7)3-5;1-4(2)3/h2-3,5H2,1H3,(H,6,7);1-3H3
